US08912188B2
To a suspension of sodium hydride (11.24 g, 281.00 mmol) in anhydrous N,N-dimethylformamide (500 mL) was added 4-fluorophenol (26.21 g, 233.96 mmol) at 0° C. After hydrogen evolution had ceased, bromo-acetaldehyde diethyl acetal (55 g, 280.60 mmol) was added. The reaction was heated at 120° C. overnight. The mixture was poured into ice-water, extracted with ethyl acetate (3×150 mL), washed with 1N sodium hydroxide (3×100 mL), and brine (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and filtered. The solvent was removed under vacuum to give the residue, which was purified by a silica gel column with 1% ethyl acetate in petroleum ether to afford 1-(diethoxymethoxy)-4-fluorobenzene as oil (45 g, 84%).

reactant | sodium hydride | 281.00 mmol, 11.24 g | [H-].[Na+]
reactant | 4-fluorophenol | 233.96 mmol, 26.21 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | hydrogen | [H][H] | H2
reactant | bromo-acetaldehyde diethyl acetal | 280.60 mmol, 55 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 1-(diethoxymethoxy)-4-fluorobenzene | 45 g, 84% | C(C)OC(OC1=CC=C(C=C1)F)OCC | C11H15FO3
